US04891375
A. 4-Chlorobutylacetophenone
To a 250 ml round-bottomed flask were added 5.0 g (29.65 mmol) 4-chlorophenylbutane and 10 ml 1,2-dichloroethane. To the stirred solution was added a solution of 4.35 g (32.62 mmol) aluminum chloride and 4.22 ml (59.31 mmol) acetyl chloride in 50 ml 1,2-dichloroethane. The solution evolved HCl as it was stirred at room temperature for 1 hour. It was then poured into water, the layers were separated, and the organic layer was washed with 1N HCl, aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, and evaporated to an oil, 6.7 g (>100%). NMR (CDCl3): 1.76 (m, 4H), 2.54 (m, 3H), 2.66 (m, 2H), 3.50 (m, 2H), 7.2 and 7.85 (m, 4H). IR (cm.-1, neat): 1678 (C=O).

reactant | 4-chlorophenylbutane | 29.65 mmol, 5.0 g | ClC1=CC=C(C=C1)CCCC | C10H13Cl
reactant | aluminum chloride | 32.62 mmol, 4.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 59.31 mmol, 4.22 ml | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 4-Chlorobutylacetophenone | ClCCCCCC(=O)C1=CC=CC=C1 | C12H15ClO
